US04085135
To a solution of 10 g of 2-hydroxyacetophenone in 40 ml of acetone, 12 g of potassium carbonate was added, and after the mixture was agitated for 1 hour at room temperature, 14 g of bromoacetic acid ethyl ester was added dropwise while stirring, and the resultant mixture was agitated for 3 hours. The reaction mixture was filtered and acetone was evaporated, leaving a residue which was extracted with ether. Evaporation of ether left a residue, which was recrystallized from petroleum ether to give 9.7 g of 2-(ethoxycarbonylmethoxy)-acetophenone, m.p. 33°-35° C.

reactant | 2-hydroxyacetophenone | 10 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | potassium carbonate | 12 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetic acid ethyl ester | 14 g | C(C)OC(CBr)=O | C4H7BrO2
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 2-(ethoxycarbonylmethoxy)-acetophenone | 9.7 g | C(C)OC(=O)COCC(=O)C1=CC=CC=C1 | C12H14O4
